US03954754
EXAMPLE 72: 6-Benzoyl-3-cyclododecanylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A suspension of 2.7 g of 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 1.8 g of cyclododecanone in 20 cc of absolute ethanol is heated on a water bath for 30 minutes, whereby a dissolution and reprecipitation clearly occurs. The resulting title compound is recrystallized from a mixture of 160 cc of methanol and 30 cc of dimethyl formamide. M.P. 222°-225° (decomp.).

reactant | 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 2.7 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
reactant | cyclododecanone | 1.8 g | C1(CCCCCCCCCCC1)=O | C12H22O
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 6-Benzoyl-3-cyclododecanylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN=C2CCCCCCCCCCC2)CC1 | C26H35N5O
